US07915261B2
Tert-butyl 4-[2-(4-{[(2-hydroxyethyl)amino]carbonyl}phenyl)ethyl]piperidine-1-carboxylate (280 mg), carbon tetrabromide (247 mg) and 2,6-lutidine (103 μl) were dissolved in dichloromethane (5.6 ml), and under ice cooling, triphenylphosphine (195 mg) was added thereto, followed by stirring at room temperature for 3 hours. The solvent was evaporated, and the residue was purified by silica gel column chromatography (eluent: hexane:EtOAc=3:7 (v/v)) to obtain tert-butyl 4-{2-[4-(1-aziridinylcarbonyl)phenyl]ethyl}-1-piperidinecarboxylate (136 mg) as a colorless oil.

reactant | Tert-butyl 4-[2-(4-{[(2-hydroxyethyl)amino]carbonyl}phenyl)ethyl]piperidine-1-carboxylate | 280 mg | OCCNC(=O)C1=CC=C(C=C1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C21H32N2O4
reactant | carbon tetrabromide | 247 mg | C(Br)(Br)(Br)Br | CBr4
reactant | 2,6-lutidine | 103 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | triphenylphosphine | 195 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 5.6 ml | ClCCl | CH2Cl2
product | tert-butyl 4-{2-[4-(1-aziridinylcarbonyl)phenyl]ethyl}-1-piperidinecarboxylate | 136 mg | N1(CC1)C(=O)C1=CC=C(C=C1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C21H30N2O3
